US05051413
5.0 g of 2-formylamino-3-hydroxy-4-methylene-6-heptenoic acid methyl ester in 200 ml of dry tetrahydrofuran are cooled to -78°, and 20 ml of 1,5-hexadiene are added thereto. 9 ml of thionyl bromide are added slowly dropwise in such a manner that the reaction temperature does not exceed -50°. When the addition is complete, the reaction solution is heated to 0° within a period of approximately 3 hours and is stirred at that temperature for 3 hours. The solution is then poured onto 300 ml of a cold (5°-10°) saturated sodium bicarbonate solution and extracted with diethyl ether. The organic extracts are washedwith saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation in vacuo. Purification by column chromatography (silica gel, ethyl acetate/hexane 1:1) yields E-2-formylamino-4-bromomethyl-3,6-heptadienoic acid methyl ester in the form of a colourless oil, 1H-NMR (CDCl3): 3.20 (d, 2H, C(5 )--H); 4.00 (s, 2H, CH2Br).

reactant | 2-formylamino-3-hydroxy-4-methylene-6-heptenoic acid methyl ester | 5.0 g | COC(C(C(C(CC=C)=C)O)NC=O)=O | C10H15NO4
reactant | 1,5-hexadiene | 20 ml | C=CCCC=C | C6H10
reactant | thionyl bromide | 9 ml | S(=O)(Br)Br | Br2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | E-2-formylamino-4-bromomethyl-3,6-heptadienoic acid methyl ester | COC(C(\C=C(/CC=C)\CBr)NC=O)=O | C10H14BrNO3
